US07737166B2
7-Bromo-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-9)
Tetrakis(triphenylphosphine)palladium(0) (300 mg, 0.26 mmol) was added to an N,N-dimethylformamide (60 ml) suspension of 7-bromo-2-tert-butyl-6-iodo-5-methyl-1,3-benzoxazole-4-carbonitrile (I-8) (545 mg, 1.30 mmol), 2-phenyl-1,3,2-dioxaborinane (205 μl, 1.37 mmol), anhydrous potassium phosphate (552 mg, 2.60 mmol), followed by stirring at 100° C. for 1 hour. After cooling, 1 N hydrochloric acid (100 ml) was added, the product was extracted with ethyl acetate (100 ml×2), the organic layer was washed with saturated brine (50 ml×2), then dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=8:1→6:1) to obtain the entitled compound (210 mg, 44%) as a colorless solid.

reactant | 7-bromo-2-tert-butyl-6-iodo-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.30 mmol, 545 mg | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)I | C13H12BrIN2O
reactant | 2-phenyl-1,3,2-dioxaborinane | 1.37 mmol, 205 μl | C1(=CC=CC=C1)B1OCCCO1 | C9H11BO2
reactant | potassium phosphate | 2.60 mmol, 552 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 7-Bromo-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 210 mg, 44% | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C2=CC=CC=C2 | C19H17BrN2O
